US08791130B2
A mixture of 2-fluoro-5-methoxy-4-(4-(methylamino)-5-(trifluoromethyl)pyrimidin-2-ylamino)benzoic acid (0.1 g, 0.28 mmol), HATU (127 mg, 0.33 mmol) and DIPEA (60 uL, 6.33 mmol) in DMF (2 mL) was stirred at room temperature for 5 min. N-Hydroxyacetimidamide (25 mg, 0.33 mmol) was added and the mixture was stirred at room temperature for 30 min followed by 100° C. for 18 h. Additional HATU (127 mg, 0.33 mmol), DIPEA (60 uL, 6.33 mmol) and N-hydroxyacetimidamide (25 mg, 0.33 mmol) were added and the reaction was heated at 100° C. for a further 8 h. The mixture was cooled and diluted with ethyl acetate (10 mL). The organic layer was washed with saturated aqueous NaHCO3 (2×5 mL) and the combined aqueous washes were extracted with further ethyl acetate (2×10 mL). The combined organics were passed through a phase separation cartridge and the solvent removed under reduced pressure. Purification of the residue via silica gel column chromatography (0-100% ethyl acetate/isohexane) afforded N2-(5-fluoro-2-methoxy-4-(3-methyl-1,2,4-oxadiazol-5-yl)phenyl)-N4-methyl-5-(trifluoromethyl)pyrimidine-2,4-diamine as a white solid (16 mg, 15%). LCMS (10 cm_ESCI_Formic_MeCN): [MH+]=399 at 4.51 min. 1H NMR (400 MHz, CDCl3): δ 8.67 (d, J=13, 1H); 8.23 (s, 1H); 8.01 (s, 1H); 7.48 (d, J=6.1, 1H); 5.33 (s, 1H); 4.00 (s, 3H); 3.16 (d, J=4.7, 3H); 2.51-2.44 (m, 3H).

reactant | 2-fluoro-5-methoxy-4-(4-(methylamino)-5-(trifluoromethyl)pyrimidin-2-ylamino)benzoic acid | 0.28 mmol, 0.1 g | FC1=C(C(=O)O)C=C(C(=C1)NC1=NC=C(C(=N1)NC)C(F)(F)F)OC | C14H12F4N4O3
reactant | HATU | 0.33 mmol, 127 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 6.33 mmol, 60 uL | CCN(C(C)C)C(C)C | C8H19N
reactant | N-Hydroxyacetimidamide | 0.33 mmol, 25 mg | ONC(C)=N | C2H6N2O
reactant | HATU | 0.33 mmol, 127 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 6.33 mmol, 60 uL | CCN(C(C)C)C(C)C | C8H19N
reactant | N-hydroxyacetimidamide | 0.33 mmol, 25 mg | ONC(C)=N | C2H6N2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | N2-(5-fluoro-2-methoxy-4-(3-methyl-1,2,4-oxadiazol-5-yl)phenyl)-N4-methyl-5-(trifluoromethyl)pyrimidine-2,4-diamine | 16 mg, 15% | FC=1C(=CC(=C(C1)NC1=NC=C(C(=N1)NC)C(F)(F)F)OC)C1=NC(=NO1)C | C16H14F4N6O2
